US06319702B1
tert-Butyl trans-4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylcinnamate
To a 100 mL 3-necked flask equipped with a magnetic stirrer, a nitrogen inlet and a reflux condenser were added 1.57 g of tert-butyl diethylphosphonoacetate (Aldrich) and 20 mL of anhydrous ethyl ether. This was followed by addition of 0.40 g of 60% NaH mineral oil dispersion. The resulting cloudy solution was heated at reflux for 25 min, cooled to 0° C. and treated with a solution of 1.52 g of 4((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzaldehyde in 10 mL of ether. A thick yellow gel resulted which was broken up with a spatula. The mixture was allowed to warm to RT and stirring was continued for an additional 1 h Analysis by tic (SiO2, 95:5 hexane:EtOAc) indicated a major new component at Rf=0.48 and minor components at Rf=0.06, 0.41 and 0.98. The mixture was diluted with 70 mL of ether, washed with saturated brine, and dried over anhydrous MgSO4. The drying agent was removed by filtration and the filtrate concentrated to give a yellow oil. This material was purified by flash chromatography on silica gel (97:3 hexaneEtOAc) to afford 1.53 g (77%) of tert-butyl trans-4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylcinramate as a clear oil.

reactant | tert-butyl diethylphosphonoacetate | 1.57 g | C(C)OP(=O)(OCC)CC(=O)OC(C)(C)C | C10H21O5P
reactant | NaH | 0.40 g | [H-].[Na+]
reactant | 4((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzaldehyde | 1.52 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=O)C=C1)C1CCCC1 | C18H28O2Si
reactant | hexane | CCCCCC | C6H14
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 70 mL | CCOCC | C4H10O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl trans-4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylcinnamate | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(/C=C/C(=O)OC(C)(C)C)C=C1)C1CCCC1 | C24H38O3Si
